US08227431B2
Preparation of (2S)-((2R,4R)-4-fluoro-3-hydroxy-3,4-dimethyl-5-(5-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)tetrahydrofuran-2-yl)methyl 2-(tert-butoxycarbonylamino)propanoate
To a stirred solution of 1-((3R,5R)-3-fluoro-4-hydroxy-5-(hydroxymethyl)-3,4-dimethyltetrahydrofuran-2-yl)-5-methylpyrimidine-2,4(1H,3H)-dione (about 0.05 g, 0.17 mmol) in tetrahydrofuran (about 5 ml) was added N,N-dimethyl amino pyridine (about 0.06 g, 0.52 mmol), N,N′-methanediylidenedicyclohexanamine (about 0.071 g, 0.34 mmol) and (S)-2-(tert-butoxycarbonylamino)propanoic acid (about 0.09 g, 0.52 mmol) at about 0° C. and stirred at room temperature for about 1 hour. Completion of the reaction monitored by thin-layer chromatography and water added to the reaction mixture. The aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine and dried over sodium sulphate. Concentration under reduced pressure and purification by silica gel column chromatography using 1.5% methanol in dichloromethane as eluent furnished title compound (0.03 g) as a colorless solid. Yield: 46.8%; 1H NMR (300 MHz, CDCl3): δ 8.08 (bs, 1H), 7.23-7.22 (m, 1H), 6.37 (d, 1H, J=23.4 Hz), 4.95 (bs, 1H), 4.45-4.25 (m, 3H), 3.40-3.34 (m, 1H), 1.95 (s, 3H), 1.45 (d, 3H, J=22.8 Hz), 1.44 (s, 9H), 1.41 (m, 3H), 1.27 (s, 3H), ES Mass: [M+Na] 482 (100%).

reactant | 1-((3R,5R)-3-fluoro-4-hydroxy-5-(hydroxymethyl)-3,4-dimethyltetrahydrofuran-2-yl)-5-methylpyrimidine-2,4(1H,3H)-dione | 0.17 mmol, about 0.05 g | F[C@]1(C(O[C@@H](C1(C)O)CO)N1C(NC(C(=C1)C)=O)=O)C | C12H17FN2O5
reactant | N,N′-methanediylidenedicyclohexanamine | 0.34 mmol, about 0.071 g | C(=NC1CCCCC1)=NC1CCCCC1 | C13H22N2
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 0.52 mmol, about 0.09 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
reactant | water | O | H2O
solvent | tetrahydrofuran | about 5 ml | O1CCCC1 | C4H8O
product | (2S)-((2R,4R)-4-fluoro-3-hydroxy-3,4-dimethyl-5-(5-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)tetrahydrofuran-2-yl)methyl 2-(tert-butoxycarbonylamino)propanoate | 0.03 g, Yield: 46.8% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC[C@H]1OC([C@](C1(C)O)(C)F)N1C(NC(C(=C1)C)=O)=O)C | C20H30FN3O8
